US06127414
(R)-N2 -(Diphenylacetyl)-(R)-N-(2-hydroxy-1-phenylethyl)arginine amide hydrochloride
Prepared according to the method described in Example 1(f) above from (R)-N2 -(diphenylacetyl)-(R)-N-(2-hydroxy-1-phenylethyl)ornithine amide hydrochloride (0.5 g; 1.12 mmol), N,N'-bis(Cbz)-S-methylisothiourea (0.603 g; 1.68 mmol), DiPEA (0.2 mL) and DMF (15 mL) yielding 0.351 g of sub-title compound.

reactant | (R)-N2 -(diphenylacetyl)-(R)-N-(2-hydroxy-1-phenylethyl)ornithine amide hydrochloride | 1.12 mmol, 0.5 g | Cl.C1(=CC=CC=C1)C(C(=O)N[C@H](CCCN)C(=O)N[C@@H](CO)C1=CC=CC=C1)C1=CC=CC=C1
reactant | N,N'-bis(Cbz)-S-methylisothiourea | 1.68 mmol, 0.603 g | C(=O)(OCC1=CC=CC=C1)NC(SC)=NC(=O)OCC1=CC=CC=C1 | C18H18N2O4S
reactant | DiPEA | 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (R)-N2 -(Diphenylacetyl)-(R)-N-(2-hydroxy-1-phenylethyl)arginine amide hydrochloride | 0.351 g | Cl.C1(=CC=CC=C1)C(C(=O)N[C@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H33N5O3.ClH/c29-28(30)31-18-10-17-23(26(35)33-24(19-34)20-11-4-1-5-12-20)32-27(36)25(21-13-6-2-7-14-21)22-15-8-3-9-16-22;/h1-9,11-16,23-25,34H,10,17-19H2,(H,32,36)(H,33,35)(H4,29,30,31);1H/t23-,24+;/m1./s1
